US06759557B2
Cyclopentadecanone of Synthesis Example 3 was replaced by 10-cycloeicosenone, and the ketone group was reduced under the same conditions as in Synthesis Example 3, whereby 10-cycloeicosenol was obtained.

reactant | Cyclopentadecanone | C1(CCCCCCCCCCCCCC1)=O | C15H28O
reactant | 10-cycloeicosenone | C1(CCCCCCCCC=CCCCCCCCCC1)=O | C20H36O
product | 10-cycloeicosenol | C1(CCCCCCCCC=CCCCCCCCCC1)O | C20H38O
